US03939276
A solution of 2-acetylfluorene (86 g.) in acetic acid (1075 ml.) at 60° was treated slowly with sodium dichromate (1020 g.), and then with acetic anhydride (285 ml.). The mixture was heated to reflux with stirring for 3 hours, cooled and poured into water (6 l.), and the precipitate was filtered and washed well with water. This solid was warmed with N-sodium hydroxide (520 ml.) and the mixture was filtered. The aqueous filtrate was washed three times with dichloromethane (3 × 60 ml.) and then heated on the steam-bath and cautiously acidified with hydrochloric acid. The yellow product was filtered, washed well with water and dried in vacuo to give fluorenone-2-carboxylic acid m.p. > 300°.

reactant | 2-acetylfluorene | 86 g | C(C)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H12O
reactant | sodium dichromate | 1020 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | acetic anhydride | 285 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 6 l | O | H2O
solvent | acetic acid | 1075 ml | C(C)(=O)O | C2H4O2
product | fluorenone-2-carboxylic acid | C1=CC=C2C(=C1)C3=C(C2=O)C=C(C=C3)C(=O)O | C14H8O3
